US06831193B2
N-[4-(dimethylamino)benzyl]-N-[(1S)-1,2,3,4-tetrahydro-1-naphthalenyl]amine
4-(Dimethylamino)benzaldehyde and (1S)-1,2,3,4-tetrahydro-1-naphthalenylamine were processed as described in Example 1A to provide the title compound.

reactant | 4-(Dimethylamino)benzaldehyde | CN(C1=CC=C(C=O)C=C1)C | C9H11NO
reactant | (1S)-1,2,3,4-tetrahydro-1-naphthalenylamine | [C@@H]1(CCCC2=CC=CC=C12)N | C10H13N
product | N-[4-(dimethylamino)benzyl]-N-[(1S)-1,2,3,4-tetrahydro-1-naphthalenyl]amine | CN(C1=CC=C(CN[C@H]2CCCC3=CC=CC=C23)C=C1)C | C19H24N2
